US07683168B2
6-(4-{3-[(R)-((2S,5R)-4-(3-Fluorobenzyl)-2,5-dimethyl-piperazin-1-yl)-(3-hydroxy-phenyl)-methyl]-benzoyl}-piperazin-1-yl)-hexanoic acid ethyl ester
The title compound was made by a procedure identical to that of Example 96 with 1.50 g of 6-(4-{3-[(R)-((2S,5R)-2,5-dimethyl-piperazin-1-yl)-(3-hydroxy-phenyl)-methyl]-benzoyl}-piperazin-1-yl)-hexanoic acid ethyl ester (2.72 mmol) and 0.68 g of 3-fluorobenzaldehyde (5.5 mmol) to give 0.97 g of desired compound as a light yellow solid. 1H NMR (300 MHz, d6-DMSO): □ 1.01-1.03 (d, J=5.8 Hz, 6H); 1.12-1.17 (t, 3H), 1.22-1.29 (m, 2H); 1.35-1.56 (m, 4H); 1.90-2.02 (m, 2H); 2.23-2.33 (m, 7H); 2.48-2.66 (m, 6H); 3.25-3.33 (m, 3H); 3.54-3.56 (m, 1H); 3.72-3.76 (dd, 1H); 3.98-4.05 (q, 2H); 4.95 (s, 1H); 6.62-6.71 (m, 3H); 6.97-7.43 (m, 9); 9.34 (s, 1H). MS: 659.0 (M+1, 80%), 437.2(85%), 221.2(100%), 209.1(70%). Calculated for C39H51FN4O4 0.11 CH2Cl2: C, 70.30; H, 7.73; N, 8.38; F, 2.84. Found: C, 70.32; H, 7.78; N, 8.41; F, 3.00.

reactant | 6-(4-{3-[(R)-((2S,5R)-2,5-dimethyl-piperazin-1-yl)-(3-hydroxy-phenyl)-methyl]-benzoyl}-piperazin-1-yl)-hexanoic acid ethyl ester | 2.72 mmol, 1.50 g | C(C)OC(CCCCCN1CCN(CC1)C(C1=CC(=CC=C1)[C@H](C1=CC(=CC=C1)O)N1[C@H](CN[C@@H](C1)C)C)=O)=O | C32H46N4O4
reactant | 3-fluorobenzaldehyde | 5.5 mmol, 0.68 g | FC=1C=C(C=O)C=CC1 | C7H5FO
product | 6-(4-{3-[(R)-((2S,5R)-4-(3-Fluorobenzyl)-2,5-dimethyl-piperazin-1-yl)-(3-hydroxy-phenyl)-methyl]-benzoyl}-piperazin-1-yl)-hexanoic acid ethyl ester | 0.97 g | C(C)OC(CCCCCN1CCN(CC1)C(C1=CC(=CC=C1)[C@H](C1=CC(=CC=C1)O)N1[C@H](CN([C@@H](C1)C)CC1=CC(=CC=C1)F)C)=O)=O | C39H51FN4O4
